US09034900B2
Step 5: N-[6-(cyclopropylmethoxy)-5-(6-methyl-7-oxofuro[2,3-c]pyridin-4-yl)pyridin-3-yl]ethanesulfonamide
A mixture of N-[6-(cyclopropylmethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide (145 mg, 0.38 mmol), 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one (25 mg, 0.11 mmol), K3PO4 (58 mg, 0.28 mmol), Pd(dppf)Cl2 (8 mg, 10%) in dioxane/H2O (1 mL/100 uL) was bubbled with nitrogen for 5 min. The sealed vial was stirred at 65° C. for 12 h. The reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (15 mL). The filtrate was washed with water and brine; the organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The resulting residue was purified by prep-HPLC to afford the title compound (21 mg, 48%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.23-0.32 (m, 2H) 0.41-0.52 (m, 2H) 1.08-1.19 (m, 1H) 1.20-1.29 (m, 3H) 3.05-3.16 (m, 2H) 3.58-3.63 (m, 3H) 3.64-3.66 (m, 1H) 4.08-4.17 (m, 2H) 6.72-6.82 (m, 1H) 7.58-7.65 (m, 1H) 7.67-7.73 (m, 1H) 7.95-8.06 (m, 1H) 8.10-8.18 (m, 1H) 9.41-9.86 (m, 1H). LCMS (M+H)+=404.

reactant | N-[6-(cyclopropylmethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide | 0.38 mmol, 145 mg | C1(CC1)COC1=C(C=C(C=N1)NS(=O)(=O)CC)B1OC(C(O1)(C)C)(C)C | C17H27BN2O5S
reactant | 4-bromo-6-methyl-6H,7H-furo[2,3-c]pyridin-7-one | 0.11 mmol, 25 mg | BrC=1C2=C(C(N(C1)C)=O)OC=C2 | C8H6BrNO2
reactant | K3PO4 | 0.28 mmol, 58 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane H2O | 1 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[6-(cyclopropylmethoxy)-5-(6-methyl-7-oxofuro[2,3-c]pyridin-4-yl)pyridin-3-yl]ethanesulfonamide | 21 mg, 48% | C1(CC1)COC1=C(C=C(C=N1)NS(=O)(=O)CC)C=1C2=C(C(N(C1)C)=O)OC=C2 | C19H21N3O5S
